US07700625B2
1-(2,4-Bis-benzyloxy-5-tert-butyl-phenyl)-ethanone [prepared as per WO 2004/072051] (2.02 g, 5.2 mmol) was dissolved in 1,4-dioxane (30 ml), a solution of sodium hydroxide (2.08 g, 52.0 mmol) in water (30 ml) was added and the mixture was stirred and treated dropwise with bromine (0.8 ml, 15.6 mmol). The resulting mixture was stirred at room temperature for 16 hours. The 1,4-dioxane was removed in vacuo and the mixture acidified to pH 2 or below by the addition of 2M hydrochloric acid. The mixture was extracted with ethyl acetate, the organic layer was separated, the solvent removed in vacuo and the residue subjected to column chromatography on silica. Elution with 30% ethyl acetate in petroleumether afforded 2,4-bis-benzyloxy-5-tert-butyl-benzoic acid (1.6 g, 79%) as a pale yellow oil. 1H NMR (DMSO-d6) 12.18 (1H, br s), 7.69 (1H, s), 7.52 (4H, t), 7.45-7.33 (6H, m), 6.93 (1H, s), 5.24 (2H, s), 5.23 (2H, s), 1.32 (9H, s). MS: [M+H]+ 391.

reactant | 1-(2,4-Bis-benzyloxy-5-tert-butyl-phenyl)-ethanone | 5.2 mmol, 2.02 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)(C)C)C(C)=O | C26H28O3
reactant | sodium hydroxide | 52.0 mmol, 2.08 g | [OH-].[Na+]
reactant | bromine | 15.6 mmol, 0.8 ml | BrBr | Br2
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | 2,4-bis-benzyloxy-5-tert-butyl-benzoic acid | 1.6 g, 79% | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C(=C1)OCC1=CC=CC=C1)C(C)(C)C | C25H26O4
